US09107916B2
A. (3E)-4-(dimethylamino)-3-phenylbut-3-en-2-one
A solution of 1-phenylpropan-2-one (2.3 g, 20 mmol) and DMF-DMA (2.4 g, 20 mmol) in DMF (10 mL) was stirred at 100° C. overnight. The reaction mixture was cooled, concentrated, and purified by silica gel column (PE/EtOAc=4:1-2:1) to give the title compound (0.7 g, 18%) as a yellow oil.

reactant | 1-phenylpropan-2-one | 20 mmol, 2.3 g | C1(=CC=CC=C1)CC(C)=O | C9H10O
reactant | DMF-DMA | 20 mmol, 2.4 g | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (3E)-4-(dimethylamino)-3-phenylbut-3-en-2-one | 0.7 g, 18% | CN(/C=C(/C(C)=O)\C1=CC=CC=C1)C | C12H15NO
